US08802664B2
A mixture of (3-bromophenyl)hydroxyacetic acid (20 g) and ortho-phenylenediamine (9.36 g) in 5N aqueous hydrochloric solution (100 mL) is heated under reflux for 4 h and cooled back to room temperature. The precipitate is separated by filtration, rinsed with acetonitrile and dried under vacuum with phosphorus pentoxyde et give 1H-benzimidazol-2-yl(3-bromophenyl)methanol as a white crystalline solid used without further purification.

reactant | (3-bromophenyl)hydroxyacetic acid | 20 g | BrC=1C=C(C=CC1)C(C(=O)O)O | C8H7BrO3
reactant | ortho-phenylenediamine | 9.36 g | C1(=C(C=CC=C1)N)N | C6H8N2
product | 1H-benzimidazol-2-yl(3-bromophenyl)methanol | N1C(=NC2=C1C=CC=C2)C(O)C2=CC(=CC=C2)Br | C14H11BrN2O
